* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AND3                                         *
* Netlisted  : Mon Dec  1 16:15:09 2025                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 6 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 7 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell(B)
*.DEVTMPLT 8 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn_CDNS_764623695851                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn_CDNS_764623695851 1
** N=2 EP=1 FDC=0
.ends polyConn_CDNS_764623695851

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_764623695850                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_764623695850 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_764623695850

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_764623695853                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_764623695853 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_764623695853

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_764623695854                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_764623695854 1 2 3 4
** N=6 EP=4 FDC=1
M0 2 3 1 4 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_764623695854

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NOT                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NOT 1 2 3 4 5
** N=7 EP=5 FDC=2
X0 3 polyConn_CDNS_764623695851 $T=590 1450 0 0 $X=405 $Y=1265
X1 1 L1M1_C_CDNS_764623695850 $T=570 2890 0 0 $X=455 $Y=2725
X2 4 L1M1_C_CDNS_764623695850 $T=1140 1470 0 90 $X=975 $Y=1355
X3 1 4 3 pfet_01v8_CDNS_764623695853 $T=710 1880 0 0 $X=265 $Y=1700
X4 2 4 3 5 nfet_01v8_CDNS_764623695854 $T=710 650 0 0 $X=305 $Y=500
.ends NOT

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_764623695855                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_764623695855 1 2 3 4 5
** N=7 EP=5 FDC=1
M0 1 4 2 5 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_764623695855

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_764623695856                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_764623695856 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 1 4 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_764623695856

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_764623695857                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_764623695857 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_764623695857

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_764623695858                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_764623695858 1 2 3
** N=5 EP=3 FDC=1
M0 1 3 2 2 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_764623695858

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND 1 2 3 4 5 6
** N=7 EP=6 FDC=4
X0 1 polyConn_CDNS_764623695851 $T=783 2053 0 0 $X=598 $Y=1868
X1 2 polyConn_CDNS_764623695851 $T=1807 1736 0 90 $X=1622 $Y=1551
X2 3 L1M1_C_CDNS_764623695850 $T=845 3490 0 90 $X=680 $Y=3375
X3 4 L1M1_C_CDNS_764623695850 $T=1930 425 0 0 $X=1815 $Y=260
X4 5 L1M1_C_CDNS_764623695850 $T=2225 2090 0 90 $X=2060 $Y=1975
X5 5 7 4 1 6 nfet_01v8_CDNS_764623695855 $T=1430 1420 0 180 $X=875 $Y=220
X6 4 7 2 6 nfet_01v8_CDNS_764623695856 $T=1790 1420 0 180 $X=1525 $Y=850
X7 3 5 1 pfet_01v8_CDNS_764623695857 $T=850 2510 0 0 $X=405 $Y=2330
X8 5 3 2 pfet_01v8_CDNS_764623695858 $T=1430 3060 0 180 $X=1045 $Y=2330
.ends NAND

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND 1 2 3 4 5 6
** N=7 EP=6 FDC=6
X0 4 3 7 5 6 NOT $T=2360 0 0 0 $X=2360 $Y=0
X1 1 2 4 3 7 6 NAND $T=0 0 0 0 $X=0 $Y=0
.ends AND

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND3                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND3
** N=8 EP=0 FDC=12
X0 1 2 3 4 5 6 AND $T=1900 5440 0 0 $X=1900 $Y=5440
X1 5 7 6 4 8 6 AND $T=5000 870 0 0 $X=5000 $Y=870
.ends AND3
